US06858638B2
N-(3-Iodo-1H-indazol-5-yl)-2-methylsulfonylbenzenesulfonamide can be obtained as described in Example 2 from 25.7 g of 5-amino-3-iodo-1H-indazole, 440 ml of pyridine and 25.3 g of 2-(methylsulfonyl)benzenesulfonyl chloride. 39 g of N-(3-iodo-1H-indazol-5-yl)-2-methylsulfonylbenzenesulfonamide are thus obtained in the form of a brown solid (mass analysis: CI: m/z 478 (M+H)+, m/z 495 (M+NH4)+, m/z 260 (base peak)).

reactant | 5-amino-3-iodo-1H-indazole | 25.7 g | NC=1C=C2C(=NNC2=CC1)I | C7H6IN3
reactant | 2-(methylsulfonyl)benzenesulfonyl chloride | 25.3 g | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO4S2
solvent | pyridine | 440 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-iodo-1H-indazol-5-yl)-2-methylsulfonylbenzenesulfonamide | 39 g | IC1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C14H12IN3O4S2
